US07994176B2
3-Cyclohexyl-dihydro-furan-2-one
Stir a mixture of 3-phenyl-dihydro-furan-2-one (9.0 g), rhodium on carbone (5%, 3.62 g) and ethanol (220 mL) on a hydrogenation parr shaker at 60 psi, 60° C. for 18 hours. Remove the reaction from the parr shaker and filter the mixture through celite, concentrate the filtrate to afford 8.6 g (92%) of the title compound.

reactant | 3-phenyl-dihydro-furan-2-one | 9.0 g | C1(=CC=CC=C1)C1C(OCC1)=O | C10H10O2
catalyst | rhodium | [Rh] | Rh
solvent | ethanol | 220 mL | C(C)O | C2H6O
product | 3-Cyclohexyl-dihydro-furan-2-one | 8.6 g, 92% | C1(CCCCC1)C1C(OCC1)=O | C10H16O2
